US07312285B2
Synthesis of Exo-Rich Norbornene Carboxylic Acid Butyl Ester
DCPD (dicyclopentadiene, Aldrich, 180 mL, 1.34 mol), butylacrylate (Junsei, 500 mL, 3.49 mol), and hydroquinone (2.7 g, 0.025 mol) were put in a 2 L autoclave. After heating to 190° C., reaction was carried out for 5 hours while stirring at 300 rpm. After the reaction was completed, the reaction mixture was cooled down and transferred to a distillation unit. The reaction mixture was distilled at 1 torr using a vacuum pump at 80° C. to obtain the product (yield: 78%). The mole ratio (mol %) of the exo-isomers to endo-isomers of the product was 56.2:43.8.

reactant | DCPD | 1.34 mol, 180 mL | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | butylacrylate | 3.49 mol, 500 mL | C(CCC)OC(C=C)=O | C7H12O2
reactant | hydroquinone | 0.025 mol, 2.7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | Norbornene Carboxylic Acid Butyl Ester | yield: 78% | C(CCC)OC(=O)C12C=CC(CC1)C2 | C12H18O2
